US06376655B1
6.47 g (0.018 mol) of ethyl 5-[4-(4-cyanophenylazo)phenoxy]-pentanoate was dissolved in a mixture of 130 mL of dimethylformamide and 41 mL of water in a 500 mL one-neck round flask fitted with a magnetic stirring bar and a reflux condenser by heating to 90° C. while stirring on an oil bath. 3.9 g (0.098 mol) of NaOH was added through the condenser. Stirring and heating were continued for 1 h after which the reaction mixture was left for cooling to room temperature. The reaction mixture was then diluted with 200 mL of water and acidified with 5.5 N HCl until pH 1.5. The precipitated crude orange product was isolated by filtration. The precipitate was dissolved in 90 mL of hot ethanol and left overnight. After filtration and vacuum drying for 22 h at 50° C. 4.61 g (yield 7.9%) of 5-[4-(4-cyanophenylazo)phenoxy]-pentanoic acid was obtained.

reactant | ethyl 5-[4-(4-cyanophenylazo)phenoxy]-pentanoate | 0.018 mol, 6.47 g | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCCCCC(=O)OCC)C=C1 | C20H21N3O3
reactant | NaOH | 0.098 mol, 3.9 g | [OH-].[Na+]
reactant | HCl | 5.5 N | Cl | ClH
solvent | dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
solvent | water | 41 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 5-[4-(4-cyanophenylazo)phenoxy]-pentanoic acid | 4.61 g, yield 7.9% | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCCCCC(=O)O)C=C1 | C18H17N3O3
